US05922861
A stirred solution of tert-butyl (4R,6R,7R)-3-methyl-7-phenylacetamido-ceph-2-em-4-carboxylate (0.776 g, 2.0 mmol) in dichloromethane (30 ml) was cooled to 0° C. Titanium tetrachloride (0.6 ml, 5.5 mmol) was added in 1 min. After stirring for 2.5 h at 0° C., the suspension was mixed with a chilled 2M solution of hydrochloric acid in water (40 ml). The organic-phase was separated and washed with a 1M solution of hydrochloric acid in water (20 ml), water (20 ml), and brine (20 ml). The organic phase was concentrated to give 0.55 g of (4R,6R,7R)-3-methyl-7-phenylacetamido-ceph-2-em-4-carboxylic acid (yield 82.7%).

reactant | tert-butyl (4R,6R,7R)-3-methyl-7-phenylacetamido-ceph-2-em-4-carboxylate | 2.0 mmol, 0.776 g | CC1=CS[C@H]2N([C@H]1C(=O)OC(C)(C)C)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C20H24N2O4S
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | 40 ml | O | H2O
catalyst | Titanium tetrachloride | 5.5 mmol, 0.6 ml | [Ti](Cl)(Cl)(Cl)Cl
product | (4R,6R,7R)-3-methyl-7-phenylacetamido-ceph-2-em-4-carboxylic acid | 0.55 g, yield 82.7% | CC1=CS[C@H]2N([C@H]1C(=O)O)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C16H16N2O4S
